US07932246B2
N-(1-Isobutoxyethoxy) 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide
4-{6-[(Naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoic acid trimethylsylanoate (1.29 mmol) was stirred in DMF (30 ml) at r.t. under N2. EDCl (297 mg, 1.55 mmol), HOBt (209 mg, 1.55 ml), intermediate D (89 μl, 6.45 mmol) and NEt3 (899 μl, 6.45 mmol) were added and the reaction stirred at 50° C. for 24 h. After this time the reaction was cooled to r.t. and diluted with water (100 ml). It was then extracted with DCM (2×100 ml), the organic layer dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (10% MeOH in DCM) to give the title compound as an orange oil (117 mg, 19%). LCMS purity 70%, m/z 474 [M+H]+.

reactant | 4-{6-[(Naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzoic acid | 1.29 mmol | C1=C(C=CC2=CC=CC=C12)CNC1C2CN(CC12)C1=CC=C(C(=O)O)C=C1 | C23H22N2O2
reactant | EDCl | 1.55 mmol, 297 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.55 ml, 209 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NEt3 | 6.45 mmol, 899 μl | CCN(CC)CC | C6H15N
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-(1-Isobutoxyethoxy) 4-{6-[(naphthalen-2-ylmethyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}-benzamide | 117 mg, 19% | C(C(C)C)OC(C)ONC(C1=CC=C(C=C1)N1CC2C(C2C1)NCC1=CC2=CC=CC=C2C=C1)=O | C29H35N3O3
